US05591646
The component amino acid (Fmoc-X-OH,1 equivalent) is mixed with Fmoc-Nle-OH (1 equivalent), then dissolved and activated by the addition of PyBOP, HOBt and NMM solutions. After 10 minutes the mixture is added to Nva-PAL-Pepsyn K support (5 mg). After 2 hours the support is washed with DMF repeatedly, treated with 30% piperidine in DMF (to remove incorporated Fmoc- groups), washed with DMF, and methanol, then treated with TFA/water (95:5) for 2 hours. The TFA solution is expelled into a vial, a known proportion of it dried down in vacuo, and the resultant mixed dipeptides X-Nva and Nle-Nva are hydrolysed with 6M HCl at 150 degrees for 1 hour. The relative incorporations of X and Nva are then determined by amino acid analysis. A graph is constructed plotting molar % X (in this initial round X is 50%) against molar percentage incorporated; and the curve which results when using extremities points at 0 and 100% is used to predict what molar percent X would give equal incorporation to that of Nle.

reactant | Fmoc-Nle-OH | 1 equivalent | N([C@@H](CCCC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | Nva | N[C@@H](CCC)C(=O)O | C5H11NO2
product | Nle | N[C@@H](CCCC)C(=O)O | C6H13NO2
